US08349833B2
2-Morpholin-4-yl-6-piperidin-4-yl-pyrimidin-4-ol, hydrochloride salt (0.16 g, 0.47 mmol), 2-dimethylamino-pyrimidine-5-carboxaldehyde (86 mg, 0.57 mmol), and one drop of acetic acid were mixed in dry dichloromethane (10 mL) for 3 hours at room temperature. Sodium cyanoborohydride (88 mg, 1.42 mmol) was added and the mixture stirred for 3 days. The mixture was poured into saturated sodium bicarbonate solution and extracted with dichloromethane (3×50 mL). The material was purified on silica gel, eluting with 10% methanol in dichloromethane to provide 6-[1-(2-Dimethylaminopyrimidin-5-ylmethyl)-piperidin-4-yl]-2-morpholin-4-yl-pyrimidin-4-ol (Compound IIa, 0.11 g, 69% yield) as a white solid. CHN Analysis: Calculated for C20H29N7O2: 60.13 C, 7.32 H, 24.54 N; found 57.31 C, 7.11 H, 23.68 H. Bestfit is C20H29N7O2+1H2O; 57.54 C, 7.48 H, 23.48 N. 1H NMR (300 MHz, CDCl3/CD3OD/TMS): δ=8.26 (s, 2H), 5.65 (s, 1H), 3.85-3.60 (m, 8H), 3.42 (m, 2H), 3.19 (s, 6H), 3.15-2.85 (m, 3H), 2.40-2.00 (m, 2H), 2.18-1.60 (m, 4H). 13C NMR (75 MHz, CDCl3/CD3OD/TMS): δ=173.66, 161.63, 158.91, 153.90, 116.63, 98.76, 66.56, 57.62, 53.12, 44.94, 43.65, 37.48, 30.26.

reactant | 2-Morpholin-4-yl-6-piperidin-4-yl-pyrimidin-4-ol, hydrochloride salt | 0.47 mmol, 0.16 g | Cl.N1(CCOCC1)C1=NC(=CC(=N1)O)C1CCNCC1
reactant | 2-dimethylamino-pyrimidine-5-carboxaldehyde | 0.57 mmol, 86 mg | CN(C1=NC=C(C=N1)C=O)C | C7H9N3O
reactant | Sodium cyanoborohydride | 1.42 mmol, 88 mg | C(#N)[BH3-].[Na+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
catalyst | acetic acid | one drop | C(C)(=O)O | C2H4O2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 6-[1-(2-Dimethylaminopyrimidin-5-ylmethyl)-piperidin-4-yl]-2-morpholin-4-yl-pyrimidin-4-ol | 0.11 g, 69% yield | CN(C1=NC=C(C=N1)CN1CCC(CC1)C1=CC(=NC(=N1)N1CCOCC1)O)C | C20H29N7O2
